US05834506
Toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester
To a round bottom flask equipped with a magnetic stirrer and nitrogen were added toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxy-5-methyl-phenyl) ester (prepared in Example RRR; 6.86 g, 19.6 mmol), Et2O (100 mL), and NEt3 (3.25 mL, 23.4 mmol), respectively. The solution was cooled to 0° C. and treated rapidly with a solution of (ethyl amino)sulfonyl chloride (3.37 g, 23.4 mmol) in Et2O (10 mL). The reaction was stirred for 30 minutes and then filtered. The solids were washed with Et2O, and the filtrate was concentrated. The resulting residue was dried in a high vacuum oven at 40° C. overnight to yield the title compound. 1H NMR (CDCl3) δ 1.15 (s, 9 H), 1.23 (t, 3 H) 2.19 (s, 3 H), 2.35 (s, 3 H), 3.30 (m, 2 H), 4.75 (br t, 1 H), 7.16 (s, 1 H), 7.19 (s, 1 H), 7.32 (d, 2 H), 7.39 (d, 2 H).

reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxy-5-methyl-phenyl) ester | 19.6 mmol, 6.86 g | C(C)(C)(C)C1=C(C=C(C(=C1)O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C18H22O3S2
reactant | NEt3 | 23.4 mmol, 3.25 mL | CCN(CC)CC | C6H15N
reactant | (ethyl amino)sulfonyl chloride | 23.4 mmol, 3.37 g | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | Toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester | C(C)(C)(C)C1=C(C=C(C(=C1)OS(NCC)(=O)=O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO5S3
